US05089487
3-(1Hydroxy-3-methylbutyl) -4-methoxy-9-methyl-11-methylsulphonyloxy-7H-dibenzo[b,g][1,5]dioxocin-5-one
0.14 ml (1.0 mmol) of triethylamine and 86 μl (1.1 mmol) of methanesulphonyl chloride are added at 0° C. under argon to 150 mg (0.4 mmol) of penicillide (Ib) in 3 ml of methylene chloride and the mixture is stirred at 25° C. for 12 h. Acidifying to pH 2, extracting with methylene chloride, washing, drying and evaporating yields, after chromatography on silica gel Si60 in ether/petroleum ether 2:1, 75 mg (41% of theory) of colorless solid

reactant | triethylamine | 1.0 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.1 mmol, 86 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | penicillide | 0.4 mmol, 150 mg | CC1=CC2=C(C(=C1)O)OC3=CC=C(C(=C3C(=O)OC2)OC)[C@H](CC(C)C)O | C21H24O6
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-(1Hydroxy-3-methylbutyl) -4-methoxy-9-methyl-11-methylsulphonyloxy-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC(CC(C)C)C1=C(C2=C(OC3=C(COC2=O)C=C(C=C3OS(=O)(=O)C)C)C=C1)OC | C22H26O8S
